US04064247
A solution of sodium nitrite (3.1 g.) in distilled water (10 cc.) is added slowly to a solution, at 0° C., of (S)-7-amino-3-(pyrid-3-ylimino)-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline (13 g.) in 4N hydrochloric acid (25 cc.). The mixture is stirred for 15 minutes at 0° C., and the solution obained is then added to a suspension of cuprous chloride (6 g.) in concentrated hydrochloric acid (d = 1.18; 25 cc.). The mixture is allowed to return to 20° C., and is then heated for 30 minutes at 70° C. After cooling to 20° C., distilled water (200 cc.), methylene chloride (250 cc.) and then N sodium hydroxide solution (100 cc.) are added. After filtration, the organic phase is recovered by decanting and is dried over magnesium sulphate, filtered and concentrated to dryness at 40° C., under reduced pressure (20 mm.Hg). The residue obtained is purified by chromatography on silica gel (200 g.) contained in a column of 3 cm. diameter, elution being carried out with methylene chloride containing 1% v/v of methanol (5,000 cc.), and 1 litre fractions being collected. Fractions 2 to 4 are combined and then concentrated to dryness. The residue obtained is recrystallised from a mixture of isopropanol (70 cc.) and heptane (100 cc.). (S)-7-Chloro-3-(pyrid-3-ylimino)-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline (5.5 g.), melting at 125° C., is thus obtained.

reactant | sodium nitrite | 3.1 g | N(=O)[O-].[Na+]
reactant | (S)-7-amino-3-(pyrid-3-ylimino)-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline | 13 g | NC=1C=CC=2C[C@@H]3N(CC2C1)C(SC3)=NC=3C=NC=CC3 | C16H16N4S
reactant | hydrochloric acid | 4N, 25 cc | Cl | ClH
reactant | hydrochloric acid | 25 cc | Cl | ClH
solvent | water | 10 cc | O | H2O
product | (S)-7-Chloro-3-(pyrid-3-ylimino)-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline | 5.5 g | ClC=1C=CC=2C[C@@H]3N(CC2C1)C(SC3)=NC=3C=NC=CC3 | C16H14ClN3S
